US05998433
c) Synthesis of N,N-dimethyl-[6-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.200 g was dissolved in 2 ml of methanol; hydrogen chloride in ethyl acetate was added in excess, followed by stirring. This was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.200 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)OC)=O)=O)O1 | C25H26N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-dimethyl-[6-[4-(4-methoxybenzoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(C2=CC=C(C=C2)OC)=O)=O)O1 | InChI=1S/C25H26N2O4.ClH/c1-26(2)15-22-14-20-12-13-27(16-23(20)31-22)25(29)19-6-4-17(5-7-19)24(28)18-8-10-21(30-3)11-9-18;/h4-11,14H,12-13,15-16H2,1-3H3;1H
